US08252935B2
To a solution of a mixture of 4-methyl-2-(5-piperidin-4-yl-4′-trifluoromethyl-biphenyl-3-yl)-pentanoic acid ethyl ester and methyl ester (68b) (55 mg, 0.12 mmol) in 1,2-dichloroethane (1.0 mL) was added cyclohexanone (0.014 mL, 0.14 mmol) and sodiumtriacetoxyborohydride (33 mg, 0.16 mmol). The mixture was stirred for 14 h at room temperature. The reaction was quenched with water and extracted with dichloromethane. The organic was washed with saturated aqueous NaHCO3 solution and brine. The organic fraction was dried (MgSO4) and concentrated in vacuo. The crude mixture was purified by ISCO column chromatography to obtain 2-[5-(1-cyclohexyl-piperidin-4-yl)-4′-trifluoromethyl-biphenyl-3-yl]-4-methyl-pentanoic acid ethyl ester and methyl ester. Calcd for C31H40F3NO2 (M+H) 516.65, Found 516.3 (methyl ester) and Calcd for C32H42F3NO2 (M+H) 530.68, Found 530.2 (ethyl ester).

reactant | 4-methyl-2-(5-piperidin-4-yl-4′-trifluoromethyl-biphenyl-3-yl)-pentanoic acid ethyl ester | C(C)OC(C(CC(C)C)C=1C=C(C=C(C1)C1CCNCC1)C1=CC=C(C=C1)C(F)(F)F)=O | C26H32F3NO2
reactant | cyclohexanone | 0.14 mmol, 0.014 mL | C1(CCCCC1)=O | C6H10O
reactant | sodiumtriacetoxyborohydride | 0.16 mmol, 33 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | 1,2-dichloroethane | 1.0 mL | ClCCCl | C2H4Cl2
product | 2-[5-(1-cyclohexyl-piperidin-4-yl)-4′-trifluoromethyl-biphenyl-3-yl]-4-methyl-pentanoic acid ethyl ester | C(C)OC(C(CC(C)C)C=1C=C(C=C(C1)C1CCN(CC1)C1CCCCC1)C1=CC=C(C=C1)C(F)(F)F)=O | C32H42F3NO2
